US07652022B2
Stage 135.4: (3-Nitro-N,N-dimethyl-5-trifluoromethyl-benzamide
In an ice bath under N2-atmosphere, 3-nitro-5-trifluoromethyl-benzoic acid (Lancaster; 11.8 g, 50 mmol), CH2Cl2 (150 ml), 3 drops of DMF and oxalylchloride ( 7.0 ml, 81 mmol) are mixed and then stirred for 2.5 h at rt. The resulting solution is concentrated in vacuo. The residue is dissolved in CH2Cl2 (170 ml) and added dropwise to an ice cooled solution of dimethylamine hydrochloride (4.5 g, 55 mmol) and NEt3 (21 ml; 0.15 mol) in CH2Cl2 (100 ml). After stirring for 15 h at rt, the mixture is worked up as described in Stage 134.3, giving the title compound as an oil: MS: [M+1]+=263; 1H-NMR (CDCl3): 8.53 (s, 1H), 8.47 (s, 1H), 8.03 (s, 1H), 3.18 (s, 3H), 3.04 (s, 3H).

reactant | 3-nitro-5-trifluoromethyl-benzoic acid | 50 mmol, 11.8 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F3NO4
reactant | oxalylchloride | 81 mmol, 7.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylamine hydrochloride | 55 mmol, 4.5 g | Cl.CNC
reactant | NEt3 | 0.15 mol, 21 ml | CCN(CC)CC | C6H15N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-Nitro-N,N-dimethyl-5-trifluoromethyl-benzamide | [N+](=O)([O-])C=1C=C(C(=O)N(C)C)C=C(C1)C(F)(F)F | C10H9F3N2O3
